US05723450
4-(4-tert-Butylcyclohexylamino)-3-methoxy-2-methylpyridine cis/trans mixture
1 g of 4-(4-tert-butylanilino)-3-methoxy-2-methylpyridine in 20 ml of methanol, 3.7 ml of 2N HCl and 1.3 ml of water are hydrogenated at room temperature and normal pressure until absorption of hydrogen has ended using 1 g of rhodium on alumina (5% strength). After filtering and concentrating 1 g of syrup remains=100% isomer mixture.

reactant | 4-(4-tert-butylanilino)-3-methoxy-2-methylpyridine | 1 g | C(C)(C)(C)C1=CC=C(NC2=C(C(=NC=C2)C)OC)C=C1 | C17H22N2O
solvent | methanol | 20 ml | CO | CH4O
solvent | HCl | 2N, 3.7 ml | Cl | ClH
solvent | water | 1.3 ml | O | H2O
product | 4-(4-tert-Butylcyclohexylamino)-3-methoxy-2-methylpyridine | C(C)(C)(C)C1CCC(CC1)NC1=C(C(=NC=C1)C)OC | C17H28N2O
